data/oMe_Silver.jsonl
{"reaction_id": "NR-053_1-CCCC(C)C_2-CCCC(C)C_3-C(C)(C)C_4-C(C)(C)C","name": "Dakin Oxidation","level": "easy","reactants_smiles": ["O=Cc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)","OO"],"products_smiles": ["Oc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)"],"conditions": "Aqueous Base (e.g. [OH-]), then Acid (e.g. HCl for workup)","mechnism_text_description": "The Dakin oxidation is the reaction between electron-rich aromatic aldehydes and hydrogen peroxide yielding phenols. It is a variant of the Baeyer-Villiger oxidation. The reaction was first described by Henry Drysdale Dakin in 1899.","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](OO)c1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)","step_weight": 0,"rationale": "Hydroxide-activated hydrogen peroxide is a strong nucleophile, attacking the electrophilic aldehyde carbonyl due to polarization from the oxygen and resonance withdrawal by the aromatic ring substituents."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "O=COc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)","step_weight": 0,"rationale": "A 1,2-aryl shift occurs because the aromatic group stabilizes the developing positive charge via resonance, facilitating migration to the adjacent peroxide oxygen."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[O-][CH](O)Oc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)","step_weight": 0,"rationale": "Hydroxide attacks the ester-like intermediate since the carbonyl carbon is electrophilic and activated by the adjacent oxygen, promoting nucleophilic addition."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[O-]c1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)","step_weight": 0,"rationale": "Elimination of the formate anion occurs as it is a good leaving group under basic conditions, driven by formation of the stable phenoxide anion."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Oc1c(CCCC(C)C)cc(CCCC(C)C)c(C(C)(C)C)c1(C(C)(C)C)","step_weight": 0,"rationale": "Acid workup protonates the phenoxide to yield the neutral phenol, favored by the stability of the aromatic hydroxyl product in acidic medium."}],"description": "Under basic conditions, hydrogen peroxide attacks the electron-deficient carbonyl of the aromatic aldehyde, followed by a rearrangement that shifts the aromatic ring to oxygen. Subsequent nucleophilic addition, elimination, and acid workup yield the phenol via Dakin oxidation."}
{"reaction_id": "NR-001_1-c1ccccc1_2-CC1(C)CCCC1","name": "Base-catalyzed Aldol addition","level": "easy","reactants_smiles": ["C(c1ccccc1)(CC1(C)CCCC1)C=O","C(c1ccccc1)(CC1(C)CCCC1)C=O"],"products_smiles": ["C(c1ccccc1)(CC1(C)CCCC1)C(O)C(c1ccccc1)(CC1(C)CCCC1)C=O"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CC1(C)CCCC1)=C[O-]","rationale": "The base abstracts the relatively acidic α-hydrogen due to resonance stabilization of the resulting enolate by the adjacent carbonyl group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccccc1)(CC1(C)CCCC1)C([O-])C(c1ccccc1)(CC1(C)CCCC1)C=O","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of another molecule, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(CC1(C)CCCC1)C(O)C(c1ccccc1)(CC1(C)CCCC1)C=O","rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, yielding the stable β-hydroxy carbonyl product."}],"description": "Under basic conditions, an α-hydrogen is deprotonated to form an enolate, which then attacks the carbonyl carbon of another molecule, forming a β-hydroxy carbonyl compound. The base catalyzes both enolate formation and final protonation of the alkoxide intermediate."}
